US07153997B2
To a stirred solution of 3,5-dibromo-4-(3-isopropyl-4-methoxyphenoxy)phenylacetic acid (1.5 g, 3.4 mmol) in acetic acid (40 mL) at room temperature was added benzyltrimethylammonium tetrachloroiodate (1.42 g, 3.4 mmol). The reaction mixture was stirred for one hour and was filtered. The filtrate was concentrated, and the product was extracted with ethyl acetate, washed with saturated NaHCO3 (aq), NaCl (aq), and dried over MgSO4 and concentrated in vacuo. The residue was purified on column (silica gel, chloroform/methanol/acetic acid 98:2:0.3) to give 802 mg (50%) of 3,5-dibromo-4-(3-chloro-4-hydroxy-5-isopropylphenoxy)phenylacetic acid.

reactant | 3,5-dibromo-4-(3-isopropyl-4-methoxyphenoxy)phenylacetic acid | 3.4 mmol, 1.5 g | BrC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br)CC(=O)O | C18H18Br2O4
reactant | benzyltrimethylammonium tetrachloroiodate | 3.4 mmol, 1.42 g | I(=O)(=O)Cl.I(=O)(=O)Cl.I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 3,5-dibromo-4-(3-chloro-4-hydroxy-5-isopropylphenoxy)phenylacetic acid | 802 mg, 50% | BrC=1C=C(C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)Cl)Br)CC(=O)O | C17H15Br2ClO4
